US06716850B2
Potassium carbonate (1.6 g, 11.5 mmol) and allyl bromide (1 ml, 11.5 mmol) were added to a solution of trifluoro-methanesulfonic acid 4-formyl-3-hydroxy-phenyl ester (1.55 g, 5.7 mmol) in acetone (50 ml). The reaction mixture was stirred at 55C. for 2 h, filtered and evaporated in vacuo. The residue was chromatographed (silica gel, EA:Hex, 1:20) to give 1.3 g (73%) of trifluoro-methanesulfonic acid 3-allyloxy-4-formyl-phenyl ester.

reactant | Potassium carbonate | 11.5 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 11.5 mmol, 1 ml | C(C=C)Br | C3H5Br
reactant | trifluoro-methanesulfonic acid 4-formyl-3-hydroxy-phenyl ester | 5.7 mmol, 1.55 g | C(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)O | C8H5F3O5S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | trifluoro-methanesulfonic acid 3-allyloxy-4-formyl-phenyl ester | 1.3 g, 73% | C(C=C)OC=1C=C(C=CC1C=O)OS(=O)(=O)C(F)(F)F | C11H9F3O5S
